### PR TITLE
feat(MultiTapeTM): Prove time upper-bounds for space-bounded classes

### PR DESCRIPTION
**Pull request by crei**
Proves ` DSPACE s ⊆ ⋃ c, DTIME (fun n => n * 2 ^ (c * s n))`. From this, the inclusions `L ⊆ P` and `PSPACE ⊆ EXP` are proven.

This PR also defines several complexity classes based on the multi-tape Turing machine model.

The key lemma to get to the theorem is a bound of the number of reachable configurations in bounded space. The configurations are split into the actual "storage" part (state, work tape positions, work tape contents) and the input head position. This is not required to prove the result but it will help proving `DSPACE log log n = DSPACE 1` in a subsequent PR.

NB: AI was used to generate this content, but it was heavily edited and checked.

### CODE REVIEW

File: Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean [hunk 1]
```diff
@@ -304,23 +330,10 @@ lemma spaceUsed_zero_tapes_eq_zero (cfg : Cfg k Symbol State input) (t : ℕ) (h
   subst h_zero
   simp
 
-/-- The number of cells touched by a single work tape grows by at most one each step. -/
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean:307]: These were moved to `TapeLemmas.lean`

File: Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean [hunk 2]
```diff
@@ -475,6 +498,80 @@ lemma halting_step_unique
...
+  unfold configs; rw [Function.iterate_add_apply]
+
+/-- Once a machine has halted at step `m`, its configuration is unchanged at any later step `n`. -/
+lemma halt_mono (cfg : Cfg k Symbol State input) {m n : ℕ} (h : m ≤ n)
+    (hm : (tm.configs cfg m).state = none) :
+    tm.configs cfg n = tm.configs cfg m := by
+  obtain ⟨d, rfl⟩ := Nat.exists_eq_add_of_le h
+  rw [Nat.add_comm, tm.configs_add, tm.iter_step_eq_of_halt hm]
+
+/-- If a deterministic machine revisits a non-halting configuration, it never halts: revisiting a
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean:513]: This sounds like super generic result which should be part of LTS or even "iterated functions" in general. @fmontesi do we have this already somewhere?

File: Cslib/Computability/Machines/Turing/MultiTape/SpaceInTime.lean [hunk 3]
```diff
@@ -0,0 +1,213 @@
...
+  refine Set.mem_iUnion.2 ⟨c + 1, 2 * c₁, c₂, s', hd.mono_time fun n => ?_⟩
+  have hlt : n < 2 ^ (s n + 1) := lt_two_pow_succ_of_log2_le (hs n)
+  calc c₁ * (n * 2 ^ (c * s n)) + c₂
+      ≤ c₁ * (2 ^ (s n + 1) * 2 ^ (c * s n)) + c₂ := by gcongr
+    _ = 2 * c₁ * 2 ^ ((c + 1) * s n) + c₂ := by
+        rw [← pow_add, show s n + 1 + c * s n = (c + 1) * s n + 1 by ring, pow_succ]; ring
+
+open Classes
+
+/-- `2 ^ log₂ n ≤ n + 1` for all `n`, including `n = 0` (where both sides are `1`). -/
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/SpaceInTime.lean:132]: Everything below here should just follow "directly" from the generic result above. I think we need more reusable results / tactics about growth functions in general. Also see [my comment](https://github.com/leanprover/cslib/pull/468#issuecomment-5146322424) in #468

File: Cslib/Computability/Machines/Turing/MultiTape/Classes.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+machines on top of `DecidableInTimeAndSpace`.
+
+## Design
+
+The general classes `DTIME` and `DSPACE` are defined using a single bound function `ℕ → ℕ` but allow
+for `O`-fuzzyness. Some textbooks use exact bounds ([Papadimitriou94]), while others use a
+definition similar to this one ([AroraBarak09], [Sipser2013]). The fuzzy definition is justified by
+the space and time compression / speedup theorems (which are not proven here) and allow for
+easier proofs and simpler theorem statements. Once we have better machinery, we can prove the
+compression / speedup theorems and potentially move to exact bounds.
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Machines/Turing/MultiTape/Classes.lean:27]: I prefer the fuzzy definitions as they are more likely to be TM-definition independent.

File: Cslib/Computability/Machines/Turing/MultiTape/Classes.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+  intro s₁ s₂ h hd
+  obtain ⟨k, sym, state, emb, tm, hcomp⟩ := hd
+  refine ⟨k, sym, state, emb, tm, fun input => ?_⟩
+  obtain ⟨t', ht', s', hs', hcs⟩ := hcomp input
+  exact ⟨t', ht', s', hs'.trans (h _), hcs⟩
+
+/-- The complexity class of languages decidable in time linear in `t` by a deterministic multi-tape
+Turing machine, disregarding the space requirement. -/
+def DTIME (t : ℕ → ℕ) :=
+  {L : Language Symbol | ∃ c₁ c₂ : ℕ, ∃ s, DecidableInTimeAndSpace L (c₁ * t · + c₂) s}
```
Comment (SamuelSchlesinger) [inline Cslib/Computability/Machines/Turing/MultiTape/Classes.lean:78]: It would be nice if these definitions used big-O notation instead. I understand you're adding the additive constant here, but is that really necessary or standard?

**Comment by SamuelSchlesinger** [comment]
I'd like to see this split up, I think it would be easier to review and easier to come to agreement on it. Left a few comments on bits which are salient for me for now.

**Comment by crei** [comment]
I split some of the content into a [separate PR](https://github.com/leanprover/cslib/pull/768) and I'm changing this one back into draft.
